US07608563B2
Under nitrogen atmosphere, in dry N,N-dimethylformamide (8 mL) was suspended 270 mg (6.75 mmol) of 60% sodium hydride, and 0.60 mL (8.10 mmol) of ethanethiol was gradually added dropwise to the suspension. After stirring for 15 minutes, 400 mg (2.27 mmol) of 3-methoxy-1,2,5-trimethyl-4-vinylbenzene obtained in (4) and dissolved in dry N,N-dimethylformamide (1.5 mL) was added to the mixture, and the resulting mixture was refluxed for 1 hour. After cooling to room temperature, the reaction mixture was poured into water, made acidic by adding hydrochloric acid, and extracted with hexane. The organic layers were combined, washed successively with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed, and the residue was purified by silica gel column chromatography (Wako gel C-100, hexane:ethyl acetate=20:1) and by preparative thin-layer chromatography (available from MERCK CO., 1.05744, developed by hexane:ethyl acetate=8:1) to obtain 63.0 mg (0.389 mmol, Yield from 1-(2-methoxy-3,4,6-trimethylphenyl)ethanone: 16.2%) of 2,3,5-trimethyl-6-vinylphenol and 330 mg (1.47 mmol, Yield from 1-(2-methoxy-3,4,6-trimethylphenyl)ethanone: 61.4%) of 2-[1-(ethylsulfanylethyl]-3,5,6-trimethylphenol.

reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | 1-(2-methoxy-3,4,6-trimethylphenyl)ethanone | COC1=C(C(=CC(=C1C)C)C)C(C)=O | C12H16O2
reactant | 1-(ethylsulfanylethyl]-3,5,6-trimethylphenol | C(C)SCCC1(CC(=CC(=C1C)C)C)O | C13H22OS
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 2,3,5-trimethyl-6-vinylphenol | 0.389 mmol, 63.0 mg, 16.2% | CC1=C(C(=C(C=C1C)C)C=C)O | C11H14O
